US04906411
2-Methyl-1,4-naphthoquinone was prepared in much the same manner as in Example 1, except that 18.6 g of 1-ethoxy-2-methylnaphthalene (86% content) was used in place of 1-methoxy-2-methylnaphthalene and the amount of 35% hydrogen peroxide was increased to 36.0 g. The yield was 9.3 g (58.1%).

reactant | 1-ethoxy-2-methylnaphthalene | 18.6 g | C(C)OC1=C(C=CC2=CC=CC=C12)C | C13H14O
reactant | hydrogen peroxide | OO | H2O2
product | 2-Methyl-1,4-naphthoquinone | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
